US04962103
(2R,4S)-1-p-Nitrobenzyloxycarbonyl-2-(2-carboxyethyl)-4-acetylthiopyrrolidine (323 mg) was dissolved in 3.3 ml of dry dimethylformamide, and 150 mg of triethylamine and 324 mg of p-nitrobenzyl bromide were added thereto, followed by stirring at room temperature for 3.5 hours. To the reaction mixture was added water, and the resulting mixture was extracted with ethyl acetate, washed successively with a saturated sodium bicarbonate solution, water, dilute hydrochloric acid and water, dried over anhydrous sodium sulfate and distilled off to remove the solvent. The residue was purified by silica gel column chromatography to obtain (2R,4S)-1-p-nitrobenzyloxycarbonyl-2-(2-p-nitrobenzyloxycarbonylethyl)-4-acetylthiopyrrolidine.

reactant | (2R,4S)-1-p-Nitrobenzyloxycarbonyl-2-(2-carboxyethyl)-4-acetylthiopyrrolidine | 323 mg | [N+](=O)([O-])C1=CC=C(COC(=O)N2[C@@H](C[C@@H](C2)SC(C)=O)CCC(=O)O)C=C1 | C17H20N2O7S
reactant | triethylamine | 150 mg | C(C)N(CC)CC | C6H15N
reactant | p-nitrobenzyl bromide | 324 mg | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
reactant | water | O | H2O
solvent | dimethylformamide | 3.3 ml | CN(C=O)C | C3H7NO
product | (2R,4S)-1-p-nitrobenzyloxycarbonyl-2-(2-p-nitrobenzyloxycarbonylethyl)-4-acetylthiopyrrolidine | [N+](=O)([O-])C1=CC=C(COC(=O)N2[C@@H](C[C@@H](C2)SC(C)=O)CCC(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C24H25N3O9S
